US04175135
A solution of 1.50 g (6.14 mmol) of 2-(2',4'-dimethylphenyl)-5,5-dimethyl-1,3-cyclohexanedione in 10 ml of chloroform was cooled in ice and 1.94 g (24.56 mmol) of pyridine added followed by 2.00 g (12.28 mmol) of 2-ethylhexanoyl chloride. The mixture was stirred for 2 hrs. at room temperature, then refluxed for 12 hrs. The mixture was worked up exactly as described in Example I above to give 1.58 g of a slightly yellow, viscous oil. This material was chromatographed through 75 g of silica gel (0.063-0.2 mm) using a gradient ranging from 98:2 to 90:10 hexane-ethyl acetate. The chromatography gave 1.15 g (51%) of 3-(2-ethylhexanoyloxy)-5,5-dimethyl-2-(2',4'-dimethylphenyl)-2-cyclohexenone as a clear colorless oil which showed one spot on a thin layer chromatogram (70:30 hexane-ethyl acetate) at Rf=0.52.

reactant | 2-(2',4'-dimethylphenyl)-5,5-dimethyl-1,3-cyclohexanedione | 6.14 mmol, 1.50 g | CC1=C(C=CC(=C1)C)C1C(CC(CC1=O)(C)C)=O | C16H20O2
reactant | pyridine | 24.56 mmol, 1.94 g | N1=CC=CC=C1 | C5H5N
reactant | 2-ethylhexanoyl chloride | 12.28 mmol, 2.00 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-ethylhexanoyloxy)-5,5-dimethyl-2-(2',4'-dimethylphenyl)-2-cyclohexenone | 1.15 g, 51% | C(C)C(C(=O)OC1=C(C(CC(C1)(C)C)=O)C1=C(C=C(C=C1)C)C)CCCC | C24H34O3
